US07737166B2
7-Fluoro-6-iodo-8-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (I-31)
Under nitrogen atmosphere, triphosgene (1.5 g, 5.04 mmol) was added to a tetrahydrofuran (200 ml) solution of 2-amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzoic acid (I-30) (4.1 g, 12.6 mmol), followed by stirring at 40° C. for 16 hours.

reactant | triphosgene | 5.04 mmol, 1.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzoic acid | 12.6 mmol, 4.1 g | NC1=C(C(=O)O)C(=C(C(=C1OC)F)I)C | C9H9FINO3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7-Fluoro-6-iodo-8-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | FC=1C(=C(C2=C(NC(OC2=O)=O)C1OC)C)I | C10H7FINO4
